US04287188
A cold (0° C.) mixture of ethylene glycol monobenzoate (166 g) and paraformaldehyde (30 g) in dry dichloroethane was saturated with dry HCl with stirring for 3 hours. The pinkish red liquid was dried over calcium chloride and the volatile components removed on a rotary evaporator at 30° C. to give 1-benzoyloxy-2-chloromethoxyethane (215 g). The Infra-Red spectrum indicated the absence of a hydroxyl group.

reactant | ethylene glycol monobenzoate | 166 g | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
reactant | paraformaldehyde | 30 g | C=O | CH2O
reactant | HCl | Cl | ClH
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 1-benzoyloxy-2-chloromethoxyethane | 215 g | C(C1=CC=CC=C1)(=O)OCCOCCl | C10H11ClO3
